US05189054
Preparation of 3-[(m-fluorophenacyl)amino]-2-carbmethoxy-6-chloroindole
Suspend the 3-amino-2-carbmethoxy-6-chloroindole (1 g, 4.45 mmol) in methylene chloride (50 mL) and add triethylamine (0.416 mL, 4.6 mmol) to produce a mostly clear solution. Add the m-fluorobenzoyl chloride (0.561 mL, 4.6 mmol) and stir for five minutes at room temperature to produce a thick white precipitate. Dilute the reaction with ethyl acetate (700 mL), rinse with water, dry over magnesium sulfate, filter and concentrate in vacuo to 300 mL. Recrystallize by adding hot hexane (150 mL) to the already hot solution of ethyl acetate to yield the title compound.

reactant | 3-amino-2-carbmethoxy-6-chloroindole | 4.45 mmol, 1 g | NC1=C(NC2=CC(=CC=C12)Cl)C(=O)OC | C10H9ClN2O2
reactant | triethylamine | 4.6 mmol, 0.416 mL | C(C)N(CC)CC | C6H15N
reactant | m-fluorobenzoyl chloride | 4.6 mmol, 0.561 mL | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | ethyl acetate | 700 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-[(m-fluorophenacyl)amino]-2-carbmethoxy-6-chloroindole | FC=1C=C(C(CNC2=C(NC3=CC(=CC=C23)Cl)C(=O)OC)=O)C=CC1 | C18H14ClFN2O3
